US06372938B1
Powdered aluminum chloride (200 g) was added to benzene (400 g) and stirred for 10 min at 50° C. Butyrolactone (86 g) was added in small portions. The temperature was maintained between 50 and 60° C. for 90 min and then the reaction mixture was added, with stirring, to a mixture of ice and 5% sodium hydroxide. The temperature was maintained below 35° C. and the pH was maintained between 9 and 9.5 for 2 hr. The mixture was filtered under vacuum. Phenylbutyric acid was precipitated from the aqueous fraction by the addition of ice and hydrochloric acid. Crude (93.7%-94.3%) 4-phenylbutyric acid was isolated by vacuum filtration.

reactant | aluminum chloride | 200 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Butyrolactone | 86 g | C1(CCCO1)=O | C4H6O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | benzene | 400 g | C1=CC=CC=C1 | C6H6
product | 4-phenylbutyric acid | 93.7%-94.3% | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
